US08685989B2
Production of 2-(5-chloropyridine-3-yloxy)-N-(1-(cyclopropylmethyl)piperidine-4-yl)-N-methylacetamide hydrochloride (Compound 126)
The title compound was synthesized from 2-(5-chloropyridine-3-yloxy)acetic acid and 1-(cyclopropylmethyl)-N-methylpiperidine-4-amine in the same manner as in Example 95.

reactant | 2-(5-chloropyridine-3-yloxy)acetic acid | ClC=1C=C(C=NC1)OCC(=O)O | C7H6ClNO3
reactant | 1-(cyclopropylmethyl)-N-methylpiperidine-4-amine | C1(CC1)CN1CCC(CC1)NC | C10H20N2
product | 2-(5-chloropyridine-3-yloxy)-N-(1-(cyclopropylmethyl)piperidine-4-yl)-N-methylacetamide hydrochloride | Cl.ClC=1C=C(C=NC1)OCC(=O)N(C)C1CCN(CC1)CC1CC1 | InChI=1S/C17H24ClN3O2.ClH/c1-20(15-4-6-21(7-5-15)11-13-2-3-13)17(22)12-23-16-8-14(18)9-19-10-16;/h8-10,13,15H,2-7,11-12H2,1H3;1H
